US04254280
EMBODIMENT III (1R,cis)-2-(2-hydroxy-3-oxobutyl)-3,3-dimethylcyclopropanecarbaldehyde
A 50-ml flask was charged with 4-acetyl-2-methoxy-7,7-dimethyl-3-oxabicyclo[4.1.0]heptane (10.1 mmol, 100% (1R,cis), a 1:1 (v) mixture (20 ml) of water and acetone and concentrated sulphuric acid (1.5 mmol), sp. gr. 1.84. After stirring the contents of the flask for one hour at 20° C. the majority of acetone was distilled off at 1.3 kPa. The residue was extracted with two 10-ml portions of dichloromethane. The combined extract phases were washed with two 20-ml portions of a saturated aqueous solutions of sodium hydrogen carbonate and then with a 10%w aqueous solution (20 ml) of sodium chloride. The washed organic phase was dried over anhydrous magnesium sulphate and the solvent was evaporated from the dried organic phase at 1.3 kPa to leave a residue (1.6 g) containing 2-(2-hydroxy-3-oxobutyl)-3,3-dimethylcyclopropanecarbaldehyde (100% (1R,cis), yield 86%).

reactant | 4-acetyl-2-methoxy-7,7-dimethyl-3-oxabicyclo[4.1.0]heptane | C(C)(=O)C1OC(C2C(C2C1)(C)C)OC | C11H18O3
reactant | water | 20 ml | O | H2O
reactant | sulphuric acid | 1.5 mmol | S(O)(O)(=O)=O | H2O4S
solvent | acetone | CC(=O)C | C3H6O
product | (1R,cis)-2-(2-hydroxy-3-oxobutyl)-3,3-dimethylcyclopropanecarbaldehyde | 1.6 g | OC(C[C@H]1[C@H](C1(C)C)C=O)C(C)=O | C10H16O3
